US08466289B2
Synthesis of Intermediate Trifluoro-methanesulfonic acid 8-nitro-5-oxo-2,3-dihydro-5H-thiazolo[3,2-a]pyridin-7-yl ester (I-27b)
7-Hydroxy-8-nitro-2,3-dihydro-thiazolo[3,2-a]pyridin-5-one (0.3 g, 1.40 mmol) in DCM (10 mL) was reacted with triflic anhydride (0.26 mL, 1.54 mmol) and TEA (0.29 mL, 2.10 mmol) at −78° C. The resulting mixture was stirred at −78° C. for 2 hours. Purification by column chromatography on silica gel (30% ethylacetate in hexane) afforded 0.27 g of the product (56% yield).

reactant | 7-Hydroxy-8-nitro-2,3-dihydro-thiazolo[3,2-a]pyridin-5-one | 1.40 mmol, 0.3 g | OC=1C(=C2N(C(C1)=O)CCS2)[N+](=O)[O-] | C7H6N2O4S
reactant | triflic anhydride | 1.54 mmol, 0.26 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | Trifluoro-methanesulfonic acid 8-nitro-5-oxo-2,3-dihydro-5H-thiazolo[3,2-a]pyridin-7-yl ester | 0.27 g, 56% yield | [N+](=O)([O-])C1=C2N(C(C=C1OS(=O)(=O)C(F)(F)F)=O)CCS2 | C8H5F3N2O6S2
